US04092466
Following the method of Wiberg et al [Wiberg et al, Angew. Chem. Internat'l Ed. Engl., 1, 335 (1962)] in an inert atmosphere enclosure a solution of triphenylsilylchloride (73.9 g, 0.251 mol) in tetrahydrofuran (400 ml) was stirred with lithium azide (15.3 g, 0.312 mol) at room temperature over a period of 115 hr. After filtration, the solvent was removed in vacuo. The resulting white solid was boiled with heptane (350 ml), filtered hot and allowed to crystalline. Triphenylsilyl azide, 65.5 g (86.3% yield), mp 82°-84° C was obtained. The melting point and infrared spectrum were identical with that of an authentic sample.

reactant | triphenylsilylchloride | 0.251 mol, 73.9 g | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15ClSi
reactant | lithium azide | 0.312 mol, 15.3 g | [N-]=[N+]=[N-].[Li+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | Triphenylsilyl azide | 86.3% yield | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)N=[N+]=[N-] | C18H15N3Si
